US06211199B1
Synthesis of (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine
Combine (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt (1.20 g, 1.77 mmol) and sodium bicarbonate (0.75 g, 8.9 mmol) in acetone/water (5 mL/5 mL). Cool in an ice bath. Add 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride (0.37 g, 1.6 mmol) in acetone (20 mL). After 30 minutes, warm to ambient temperature. After 5 hours, filter the reaction mixture and extract the filtrate with ethyl acetate. Extract the organic layer with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate, 3% methanol/dichloromethane, and then 6% methanol/dichloromethane to give the title compound: Rf=0.38 (silica gel, 6% methanol/dichloromethane).

reactant | (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt | 1.77 mmol, 1.20 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)[C@@]1(CNCC1)CCO
reactant | sodium bicarbonate | 8.9 mmol, 0.75 g | C([O-])(O)=O.[Na+]
reactant | 2-methoxy-5-(1H-tetrazol-1-yl)benzoyl chloride | 1.6 mmol, 0.37 g | COC1=C(C(=O)Cl)C=C(C=C1)N1N=NN=C1 | C9H7ClN4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone water | 5 mL | CC(=O)C.O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | methanol dichloromethane | CO.ClCCl
product | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | COC1=C(C(=O)N2C[C@@](CC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C21H21Cl2N5O3
